US04279902
B. 5-[[(2,2-Dimethyl-1,3-dioxolan-4-yl)-methoxy]methyl]tetrahydro-2-furanmethanol
46.3 g of 2,2-dimethyl-1,3-dioxolane-4-methanol (0.35 mol) (Aldrich) is cooled to 0° in an ice bath and under a nitrogen atmosphere 2.1 g of sodium hydride (0.088 mol) (washed with hexane to remove the mineral oil) is slowly added to the rapidly stirred mixture. The addition of the sodium hydride is made at such a rate that the temperature remains below 20°. After the addition of the NaH has been completed the mixture is allowed to stir for 1/2 hour and slowly warmed to room temperature. Slowly, and with stirring 10.0 g of 1,5-hexadiene diepoxide (0.088 mol) is added to the mixture. After the addition of the diepoxide has been completed the reaction mixture is heated at reflux for 16 hours. The mixture is then cooled to room temperature and with stirring is poured into 350 ml of water. The aqueous mixture is extracted with two 200 ml portions of chloroform, the CHCl3 extracts are combined and dried over anhydrous sodium sulfate. The CHCl3 is removed in vacuo and the dark brown residue then vacuum distilled through a 10 cm vigreux distilling column. The fraction boiling at 135°-137° @ 0.3 mm is collected yielding 12.6 g (58%) of the above compound.

reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 0.35 mol, 46.3 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | sodium hydride | 0.088 mol, 2.1 g | [H-].[Na+]
reactant | 1,5-hexadiene diepoxide | 0.088 mol, 10.0 g | C1C(O1)CCC2CO2 | C6H10O2
solvent | water | 350 ml | O | H2O
product | 5-[[(2,2-Dimethyl-1,3-dioxolan-4-yl)-methoxy]methyl]tetrahydro-2-furanmethanol | 12.6 g, 58% | CC1(OCC(O1)COCC1CCC(O1)CO)C | C12H22O5
